Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S/p fall
 
Major Surgical or Invasive Procedure:
___: multiple laceration repairs
 
History of Present Illness:
___ PMH osteoporosis p/w mechanical fall.  

Patient is at an assisted living facility, was reaching for 
something on the floor and fell forward, hitting head. Did not 
pass out. Was alone at the time. No precipitating 
CP/SOB/palpitations. No significant DOE but spends most of her 
time in a wheelchair. No f/c. Positive difficulty urinating and 
possibly dysuria.  

Last fall over ___ years ago. Per discussion with her daughters, 
decision was made to continue warfarin despite bleeding risks as 
she had a presumed embolic stroke with gradual return of 
function, and they felt she would take the bleeding risk to not 
suffer another stroke.  

In the ED, initial vitals were: 97.5 80 161/75 16 95% RA  
 - Exam notable for: AAOx3, lacerations overlying b/l knees, 
right proximal forearm and dorsum of hand, punctate lac on left 
arm  
 - Labs notable for: WBC 10.4 with left shift, INR 1.8, u/a with 
70 wbc, +nitr  
 - Imaging was notable for: Ct head, C-spine negative for 
bleed/fracture, with plain films also negative for fracture  
 - Patient was given: tetanus shot x 1, Tylenol ___ mg, CTX 1g 
IV x 1  
 - Laceration repair performed: of arms and forehead, otherwise 
steri strips on other areas  
 - Vitals prior to transfer: 85 142/60 16 95% RA  
 
Upon arrival to the floor, patient reports Tylenol helped her 
pain. She denies numbness/tingling/weakness. She does report 
feeling depressed and bored with life, with every day the same 
at her facility. She denies thoughts of self harm.  

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) 10 point ROS reviewed and negative unless stated above in 
HPI  

 
Past Medical History:
 - Osteoarthritis  
 - Osteoporosis  
 - Hypertension  
 - Left occipital stroke, thought to be cardioembolic, on 
coumadin  
 - Hx of DVT  
 - History of GI bleed at age ___  
 - Gerd  
 - COPD  
 - Depression  
 - Status post D&C in the ___.  
 - Status post tonsillectomy in the ___.
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM:
=========================
Vital Signs: 97.3 130/78 81 20 92 RA  
General: Alert, oriented, no acute distress  
HEENT: With bruising across face and laceration s/p repair on 
forehead. Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL. 
 
Neck: Supple. JVP not elevated.  
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheeze  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, multiple echymoses and 
areas of laceration repair over forehead and arms, bru  
Neuro: CNII-XII intact, grossly intact strength in b/l upper and 
lower extremities  

=========================
DISCHARGE PHYSICAL EXAM:
=========================
Vital Signs: 97.8 128/59 73 18 95 Ra  
General: Alert, oriented, no acute distress  
HEENT: Extensive bruising across face and under eyes. Laceration 
s/p repair on forehead. Sclerae anicteric, MMM, oropharynx 
clear, EOMI.   
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally anteriorly 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, multiple echymoses and 
areas of laceration repair over arms
Neuro: CNII-XII intact, grossly intact strength in b/l upper and 
lower extremities. Gait deferred, patient is wheelchair bound at 
baseline.
 
Pertinent Results:
===================
ADMISSION LABS:
===================
___ 05:55PM   ___ PTT-32.2 ___
___ 05:55PM   NEUTS-71.9* LYMPHS-12.8* MONOS-7.8 EOS-5.6 
BASOS-1.4* IM ___ AbsNeut-7.51* AbsLymp-1.34 AbsMono-0.81* 
AbsEos-0.58* AbsBaso-0.15*
___ 05:55PM   WBC-10.4* RBC-4.05 HGB-11.8 HCT-36.7 MCV-91 
MCH-29.1 MCHC-32.2 RDW-14.2 RDWSD-47.3*
___ 05:55PM   GLUCOSE-93 UREA N-21* CREAT-0.7 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-107 TOTAL CO2-21* ANION GAP-18
___ 06:52PM URINE  MUCOUS-RARE
___ 06:52PM URINE  RBC-14* WBC-70* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 06:52PM URINE  BLOOD-SM  NITRITE-POS PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-LG
___ 06:52PM URINE  COLOR-Straw APPEAR-Hazy SP ___

===================
PERTINENT LABS:
===================
___ 07:18PM BLOOD CK-MB-3 cTropnT-0.01
___ 06:45AM BLOOD CK-MB-4 cTropnT-0.02*

===================
MICROBIOLOGY:
===================
__________________________________________________________
___ 9:20 pm BLOOD CULTURE     

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 9:19 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 6:52 pm URINE

URINE CULTURE (Preliminary): 
Culture workup discontinued. Further incubation showed 
contamination with mixed skin/genital flora. Clinical 
significance of isolate(s)uncertain. Interpret with caution. 
ESCHERICHIA COLI. >100,000 CFU/mL. PRESUMPTIVE IDENTIFICATION. 
PROTEUS MIRABILIS. >100,000 CFU/mL. PRESUMPTIVE IDENTIFICATION. 

===================
IMAGING/STUDIES:
===================
___ CHEST (SINGLE VIEW)     
FINDINGS:  
Given semi supine positioning and rotation, the lungs are 
grossly clear. Cardiac silhouette is enlarged but grossly 
unchanged.  Atherosclerotic 
calcifications are noted at the aortic arch.  Old healed right 
lateral rib 
fractures and proximal right humerus fractures are noted. 
  
IMPRESSION:  
No definite acute cardiopulmonary process.       
===
___ PELVIS (AP ONLY)
FINDINGS:  
The bones are diffusely demineralized limiting detailed 
evaluation. Orthopedic hardware transfixing old chronic 
appearing right femoral neck fracture is noted. No definite 
acute fracture. Pubic symphysis and SI joints are grossly 
preserved. Lumbar dextroscoliosis and degenerative changes are 
noted. 
  
IMPRESSION:  
Limited exam due to demineralization with chronic changes of the 
proximal right femur. No visualized acute fracture.     
===        
___ CT HEAD W/O CONTRAST  
1. Scalp hematoma and laceration overlying the frontal bone, but 
no evidence of underlying fracture or intracranial hemorrhage. 
2. Sequela of extensive chronic microangiopathy with an 
unchanged regions of encephalomalacia within the left frontal 
and temporal lobes as well as the bilateral cerebellar 
hemispheres. 
3. Paranasal sinus disease with an air-fluid level, slightly 
improved compared to prior.  Please correlate with any clinical 
signs of acute sinusitis.         
===
___ CT C-SPINE W/O CONTRAST 
1. No evidence of fracture or traumatic subluxation. 
2. Extensive multilevel multifactorial degenerative changes. 
3. Unchanged hypodense nodule arising from the right lobe of the 
thyroid 
measuring up to 3.0 cm. 

===================
DISCHARGE LABS:
===================
___ 06:45AM BLOOD ___ PTT-30.9 ___
___ 06:45AM BLOOD Glucose-83 UreaN-16 Creat-0.7 Na-142 
K-3.7 Cl-106 HCO3-25 AnGap-15
___ 06:45AM BLOOD Calcium-8.9 Phos-3.7 Mg-1.9
___ 01:10PM BLOOD WBC-9.2 RBC-3.26* Hgb-9.5* Hct-29.5* 
MCV-91 MCH-29.1 MCHC-32.2 RDW-14.2 RDWSD-47.0* Plt ___
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with history of DVT and embolic 
CVA on warfarin, osteoporosis, presented after a mechanical fall 
from her wheelchair at her rehab facility, complicated by facial 
hematomas and lacerations. Lacerations on the forehead and arms 
were repaired in the Emergency Department. CT Head and neck, and 
plain films of the chest and pelvis were negative for fracture. 
The patient also reported dysuria, and was found to have 
positive urinalysis with urine culture growing E. coli and 
Proteus. The patient received three days of ceftriaxone.

====================
ACTIVE ISSUES: 
==================== 
# Urinary tract infection: Patient presented with dysuria, found 
to have leukocytosis and positive urinalysis. Urine culture grew 
E. coli and Proteus, but was also contaminatd by genital flora. 
The patient received 3 days of ceftriaxone (Last day: ___.

# S/p mechanical fall
# Facial hematomas, lacerations: Patient presented after fall 
from her wheelchair at rehab. CT Head and Neck were negative for 
fracture. Plain films of the chest and pelvis were also negative 
for fracture. H/H on discharge ___.5.
 
# Hx of DVT 
# Hx of CVA: Patient has history of left occipital stroke that 
is thought to be cardioembolic in nature, despite overall 
negative work-up including echo and
hypercoagulability panel with neurology. On warfarin with goal 
INR ___. During this admission, INR found to be slightly 
subtherapeutic and warfarin dose was increased from 2.5 mg daily 
to 3 mg daily. INR on day of discharge was 2.2. Patient should 
have next INR checked on ___. Please monitor INR closely. 
Patient was continued on home statin.

# Osteoporosis: Consider calcium and Vitamin D as an outpatient. 


# Depression: Patient reports low mood despite antidepressant 
therapy. Patient denied any SI/HI. Continued sertraline; 
consider uptitration as an outpatient.

=====================
CHRONIC ISSUES: 
===================== 
# COPD: Patient does not appear to be on home medications for 
this; in the past she appears to have been on Spiriva.
# HTN: Continued home amlodipine.
# GERD: Continued home omeprazole.
# HLD: Continued home statin.
 
=======================
TRANSITIONAL ISSUES
=======================
- Sutures placed to right arm and forehead on ___. 
-- Please remove sutures from forehead in 5 days (___).
-- Please remove sutures from right arm in 7 days (___).
- INR was subtherapeutic during this admission. Warfarin dose 
increased from 2.5 mg daily to 3 mg daily. INR on day of 
discharge: 2.2. Check next INR on ___. Please continue to 
monitor INR closely.
- Consider initiating calcium/vitamin D for osteoporosis
- Patient reported low mood without SI/HI; consider uptitrating 
antidepressant
- Code: DNR/DNI   
- Communication: ___, Daughter Phone number: 
___

Greater than 30mins was spent on care coordination and 
counseling by the attending physician on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO DAILY 
2. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
3. Acetaminophen 650 mg PO BID:PRN Pain - Mild 
4. Atorvastatin 20 mg PO EVERY OTHER DAY 
5. Ibuprofen 400 mg PO BID:PRN Pain - Mild 
6. Omeprazole 20 mg PO BID 
7. Artificial Tears 1 DROP BOTH EYES DAILY 
8. Calcium Carbonate 500 mg PO BID:PRN GI distress 
9. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
10. Docusate Sodium 100 mg PO 3X/WEEK (___) 
11. Senna 8.6 mg PO QHS 
12. Sertraline 50 mg PO DAILY 
13. Warfarin 2.5 mg PO DAILY16 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO BID:PRN Pain - Mild  
2.  amLODIPine 5 mg PO DAILY  
3.  Artificial Tears 1 DROP BOTH EYES DAILY  
4.  Atorvastatin 20 mg PO EVERY OTHER DAY  
5.  Calcium Carbonate 500 mg PO BID:PRN GI distress  
6.  Docusate Sodium 100 mg PO 3X/WEEK (___)  
7.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
8.  Ibuprofen 400 mg PO BID:PRN Pain - Mild  
9.  Omeprazole 20 mg PO BID  
10.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
11.  Senna 8.6 mg PO QHS  
12.  Sertraline 50 mg PO DAILY  
13.  Warfarin 2.5 mg PO DAILY16  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
- Urinary tract infection
- Mechanical fall

SECONDARY:
- History of deep vein thrombosis
- History of cerebral vascular accident
- Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you. You came to the hospital 
because you had a fall from your wheelchair and had some 
bruising and cuts on your face. We repaired these cuts. 

We also found that you had a urinary tract infection, and we 
gave you antibiotics to treat this.

We wish you the best of health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___